US06515124B2
A solution of ethyl 2-chloroacetoacetate (2.00 g, 10.04 mmol) and thiopropionamide (1.00 g, 11.22 mmol) in ethanol (100 mL) was heated at reflux overnight. The solvent was evaporated and dichloromethane (100 mL) added. The solution was washed with water (2×100 mL) and brine (100 mL), dried (MgSO4), filtered, evaporated and the concentrate was chromatographed over silica gel (10% ethyl acetate/hexanes) to give 2-ethyl-4-methylthiazole-5-carboxylic acid ethyl ester (1.63 g, 81% yield) as a colorless liquid.

reactant | ethyl 2-chloroacetoacetate | 10.04 mmol, 2.00 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | thiopropionamide | 11.22 mmol, 1.00 g | C(CC)(=S)N | C3H7NS
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-ethyl-4-methylthiazole-5-carboxylic acid ethyl ester | 1.63 g, 81% yield | C(C)OC(=O)C1=C(N=C(S1)CC)C | C9H13NO2S
